US07700624B2
4-{[(1R3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]amino}-1-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanol
To a solution of ((1S,3R)-3-amino-1-isopropylcyclopentyl)(4-(4-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)methanone (50 mg, 0.13 mmol) in DCM (2 mL) was added 4-hydroxy-4-(5-(pyrimidin-2-yl)pyridin-2-yl)cyclohexanone (1.5 equiv) and sodium triacetoxyborohydride (1.5 equiv). The mixture was stirred until complete, portioned and the aqueous phase extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate. Chromatography gave the title compound as a white powder after lypholization. MS calculated for C32H42F3N7O2: (M+H) 638; found 638.3.

reactant | ((1S,3R)-3-amino-1-isopropylcyclopentyl)(4-(4-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)methanone | 0.13 mmol, 50 mg | N[C@H]1C[C@@](CC1)(C(C)C)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C19H27F3N4O
reactant | 4-hydroxy-4-(5-(pyrimidin-2-yl)pyridin-2-yl)cyclohexanone | 1.5 equiv | OC1(CCC(CC1)=O)C1=NC=C(C=C1)C1=NC=CC=N1 | C15H15N3O2
reactant | sodium triacetoxyborohydride | 1.5 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-{[(1R3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]amino}-1-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanol | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCC(CC1)(O)C1=NC=C(C=C1)C1=NC=CC=N1)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C34H42F3N7O2
